* ============================================
* Test: multiply_full_sequence.spice
* Cell: 8T_03v3
* PDK: GF180mcuD
* Purpose: exercise all four (W,A) products in one
*          transient. Phase 1 = W1, Phase 2 = W0.
* ============================================

.include /workspace/analog/designs/pvt.spice
.include /workspace/analog/designs/params_6T.spice
.include /workspace/analog/designs/params_8T.spice
.include /workspace/analog/tb/8T_tb.spice

* -- supplies --
VVDD  vdd 0 {VDD_CORNER}
VVSS  vss 0 0

* -- WL: two write pulses, at 5n and 105n --
VWL   wl 0 PULSE(0 {VDD_CORNER} 5n 0.2n 0.2n 10n 100n)

* -- write data: WBL high first (writes Q=1), flips at 100n --
VWBL  wbl  0 PWL(0n {VDD_CORNER}  99n {VDD_CORNER}  100n 0  200n 0)
VWBLB wblb 0 PWL(0n 0  99n 0  100n {VDD_CORNER}  200n {VDD_CORNER})

* -- A: toggles during both compute windows --
VA    a 0 PULSE(0 {VDD_CORNER} 30n 0.2n 0.2n 20n 40n)

* -- output load --
CRBL  rbl 0 5f

* -- start with Q=0 so the first write flips it high --
.ic v(q)=0 v(qb)={VDD_CORNER}

.control
  save all

  tran 0.05n 200n uic

  echo
  echo ===== PHASE 1: W = 1 =====
  meas tran p1_q       FIND v(q)   AT=25n
  meas tran p1_qb      FIND v(qb)  AT=25n
  meas tran w1a1_out_1 FIND v(rbl) AT=45n
  meas tran w1a0_out_1 FIND v(rbl) AT=65n
  meas tran w1a1_out_2 FIND v(rbl) AT=85n
  meas tran p1_o_max   MAX v(rbl) FROM=40n TO=50n
  meas tran p1_o_min   MIN v(rbl) FROM=60n TO=70n

  echo
  echo ===== PHASE 2: W = 0 =====
  meas tran p2_q       FIND v(q)   AT=125n
  meas tran p2_qb      FIND v(qb)  AT=125n
  meas tran w0a1_out_1 FIND v(rbl) AT=145n
  meas tran w0a0_out_1 FIND v(rbl) AT=165n
  meas tran w0a1_out_2 FIND v(rbl) AT=185n
  meas tran p2_o_max   MAX v(rbl) FROM=125n TO=195n

  echo
  echo ===== TIMING =====
  meas tran o_rise WHEN v(rbl)=1.465 RISE=1
  meas tran o_fall WHEN v(rbl)=1.465 FALL=1

  echo
  echo ===== STORAGE INTEGRITY =====
  meas tran q_end  FIND v(q)  AT=199n
  meas tran qb_end FIND v(qb) AT=199n

  write /workspace/analog/sim/8t/results/multiply_full_sequence.raw all
.endc

.end